US06326359B1
N-(2-{9-[(2R,3R,4R,5R)-3,4-bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}ethyl)-N-(1-ethylpropyl)amine
Sodium triacetoxyborohydride (105 mg, 0.51 mmol) and glacial acetic acid (24 mg, 0.40 mmol) were added to a stirred solution of N-{2-(2-aminoethyl)-9-[(2R,3R,4R,5R)-3,4-bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-9H-purin-6-yl}-N-(2,2-diphenylethyl)amine (250 mg, 0.34 mmol) (preparation 18) and diethyl ketone (58 mg, 0.68 mmol) in dichloromethane (15 ml) and the resulting mixture stirred under an atmosphere of nitrogen gas at room temperature overnight. Additional portions of diethyl ketone (30 mg, 0.35 mmol) and sodium triacetoxyborohydride (60 mg, 0.29 mmol) were then added and stirring continued at room temperature for a further 24 hr. The mixture was diluted with ethyl acetate (20 ml) and washed sequentially with saturated aqueous sodium hydrogen carbonate solution, brine and water. The organic phase was separated and dried with anhydrous sodium sulfate. The solvent was removed under reduced pressure and the residue purified by column chromatography on silica gel eluting with dichloromethane:methanol:ammonia (96:4:0.4) to give the title compound (250 mg) as a gum. MS: 803 (MH+).

reactant | Sodium triacetoxyborohydride | 0.51 mmol, 105 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.40 mmol, 24 mg | C(C)(=O)O | C2H4O2
reactant | N-{2-(2-aminoethyl)-9-[(2R,3R,4R,5R)-3,4-bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-9H-purin-6-yl}-N-(2,2-diphenylethyl)amine | 0.34 mmol, 250 mg | NCCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)COC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C39H60N6O4Si2
reactant | diethyl ketone | 0.68 mmol, 58 mg | C(C)C(=O)CC | C5H10O
reactant | diethyl ketone | 0.35 mmol, 30 mg | C(C)C(=O)CC | C5H10O
reactant | sodium triacetoxyborohydride | 0.29 mmol, 60 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | N-(2-{9-[(2R,3R,4R,5R)-3,4-bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}ethyl)-N-(1-ethylpropyl)amine | 250 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](O[C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)COC)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)CCNC(CC)CC | C44H70N6O4Si2
